US07964613B2
(R/S)-3-(Allylamino)-1-(4-bromo-5-isoquinolinesulfonyl)pyrrolidine
3-Amino-1-(4-bromo-5-isoquinolinesulfonyl)pyrrolidine hydrochloride can be used in the method of Example 5-1 instead of (S)-3-amino-1-(4-bromo-5-isoquinolinesulfonyl)pyrrolidine hydrochloride to obtain the title compound.

reactant | 3-Amino-1-(4-bromo-5-isoquinolinesulfonyl)pyrrolidine hydrochloride | Cl.NC1CN(CC1)S(=O)(=O)C=1C=2C(=CN=CC2C=CC1)Br
reactant | (S)-3-amino-1-(4-bromo-5-isoquinolinesulfonyl)pyrrolidine hydrochloride | Cl.N[C@@H]1CN(CC1)S(=O)(=O)C=1C=2C(=CN=CC2C=CC1)Br
product | (R/S)-3-(Allylamino)-1-(4-bromo-5-isoquinolinesulfonyl)pyrrolidine | C(C=C)NC1CN(CC1)S(=O)(=O)C=1C=2C(=CN=CC2C=CC1)Br | C16H18BrN3O2S
